US05220064
To a solution of 2.61 g 1,1'-carboxyldiimidazole (CDI) in 60 ml of anhydrous tetrahydrofuran (THF) is added, dropwise, a solution of 3-chloro-4-hydroxyphenylacetic acid (3.00 g) in 20 ml THF under N2. The reaction solution is stirred for 30 minutes at room temperature following the addition and then refluxed for 30 minutes under N2 When the reaction solution is cooled to room temperature, a solution of 2.7 ml octylamine in 5 ml THF is added dropwise, and the resulting reaction solution is allowed to stir overnight at room temperature under N2. After evaporation the reaction mixture is partitioned between 1N HCl and CH2Cl2. The CH2Cl2 layer (100 ml) is washed with 50 ml portions of 1N HCl, H2O, saturated NaHCO3, H2O, and brine. The resulting product is flash chromatographed over 230-400 silica gel eluting with hexanes/ethylacetate (3:2) to yield benzeneacetamide, 3-chloro-4 -hydroxy-N-octyl-, in a yield of 2.18 g (45.5%) mp 81°-82° C.

reactant | 3-chloro-4-hydroxyphenylacetic acid | 3.00 g | ClC=1C=C(C=CC1O)CC(=O)O | C8H7ClO3
reactant | octylamine | 2.7 ml | C(CCCCCCC)N | C8H19N
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | O1CCCC1 | C4H8O
solvent | THF | 5 ml | O1CCCC1 | C4H8O
product | benzeneacetamide | C1(=CC=CC=C1)CC(=O)N | C8H9NO
